US06562811B1
To a stirred solution of 1,1-dimethylethyl(tert-butyl)-3-{7-[2-[(cyclopropylmethyl)oxy]-6-({[4-(methyloxy)phenyl]methyl}oxy)phenyl]-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl}-1-piperidinecarboxylate (0.050 g, 0.083 mmol) in 1,4-Dioxane was added 4N HCl in 1,4-dioxane (2.000 mL). The mixture was stirred at room temperature for 6 hrs. The reaction mixture was concentrated under reduced pressure. The resulting residue was washed with acetonitrile to give 3-(cyclopropylmethoxy)-2-[5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-7-yl]-phenol hydrochloride as a colorless solid (0.033 g, yield; 95%).

reactant | 1,1-dimethylethyl(tert-butyl)-3-{7-[2-[(cyclopropylmethyl)oxy]-6-({[4-(methyloxy)phenyl]methyl}oxy)phenyl]-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl}-1-piperidinecarboxylate | 0.083 mmol, 0.050 g | CC(C)(C)C1(N(CCCC1C1=CC(=NC=2NCOCC21)C2=C(C=CC=C2OCC2=CC=C(C=C2)OC)OCC2CC2)C(=O)[O-])C(C)(C)C
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-Dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2.000 mL | O1CCOCC1 | C4H8O2
product | 3-(cyclopropylmethoxy)-2-[5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-7-yl]-phenol hydrochloride | 0.033 g, yield; 95% | Cl.C1(CC1)COC=1C(=C(C=CC1)O)C=1C=C(C2=C(NCOC2)N1)C1CNCCC1 | InChI=1S/C22H27N3O3.ClH/c26-19-4-1-5-20(28-11-14-6-7-14)21(19)18-9-16(15-3-2-8-23-10-15)17-12-27-13-24-22(17)25-18;/h1,4-5,9,14-15,23,26H,2-3,6-8,10-13H2,(H,24,25);1H
